US07179823B1
To a solution of ethyl 3-[3-ethoxy-1-(4-hydroxy-3-methoxybenzyl)-1H-pyrazol-4-yl]propionate (505 mg) in N,N-dimethylformamide (10 ml), sodium hydride (60%, oily, 58.0 mg) was added at 0° C., and then the solution was stirred at room temperature for 30 minutes. 4-Chloromethyl-2-(2-furyl)-5-methyloxazole (573 mg) was added to the reaction mixture, which was stirred at room temperature for one hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyl]-1H-pyrazol-4-yl]propionate (564 mg, yield: 76%) was obtained as a yellow oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 3-[3-ethoxy-1-(4-hydroxy-3-methoxybenzyl)-1H-pyrazol-4-yl]propionate | 505 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC(=C(C=C1)O)OC | C18H24N2O5
reactant | sodium hydride | 58.0 mg | [H-].[Na+]
reactant | 4-Chloromethyl-2-(2-furyl)-5-methyloxazole | 573 mg | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyl]-1H-pyrazol-4-yl]propionate | 564 mg, yield: 76% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C27H31N3O7
